US03951981
Preparation of 6-Nitro-10-(4-benzyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine
A solution of 6-nitro 10-(methylthio)-4H-thieno [3,4-b] [1,5] benzodiazepine in excess N-benzylpiperazine and glacial acetic acid is heated at 140°-160°C. for 2 days. The solution is poured into water and the product is collected.

reactant | 6-nitro 10-(methylthio)-4H-thieno [3,4-b] [1,5] benzodiazepine | [N+](=O)([O-])C1=CC2=C(N=C(C=3C(N2)=CSC3)SC)C=C1 | C12H9N3O2S2
reactant | water | O | H2O
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Nitro-10-(4-benzyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine | [N+](=O)([O-])C1=CC2=C(N=C(C=3C(N2)=CSC3)N3CCN(CC3)CC3=CC=CC=C3)C=C1 | C22H21N5O2S
